US07777047B2
((4R)-2-{5-(2-methoxyethoxy)-7-[methyl(pyridin-2-ylsulfonyl)amino]-1H-indol-2-yl}-4,5-dihydro-1,3-thiazol-4-yl)methyl methanesulfonate
A solution of N-[2-[(4R)-4-(hydroxymethyl)-4,5-dihydro-1,3-thiazol-2-yl]-5-(2-methoxyethoxy)-1H-indol-7-yl]-N-methylpyridine-2-sulfonamide (0.28 g), methanesulfonyl chloride (0.10 g) and triethylamine (0.16 mL) in tetrahydrofuran (5.0 mL) was stirred at room temperature for 2 hr, and extracted with ethyl acetate. The organic layer was washed with water and saturated brine, dried (MgSO4), and concentrated. The obtained residue was subjected to silica gel column chromatography, and eluted with hexane-ethyl acetate (4:1-1:4, volume ratio) to give the title compound (0.25 g, yield 77%) as a colorless oil.

reactant | N-[2-[(4R)-4-(hydroxymethyl)-4,5-dihydro-1,3-thiazol-2-yl]-5-(2-methoxyethoxy)-1H-indol-7-yl]-N-methylpyridine-2-sulfonamide | 0.28 g | OC[C@H]1N=C(SC1)C=1NC2=C(C=C(C=C2C1)OCCOC)N(S(=O)(=O)C1=NC=CC=C1)C | C21H24N4O5S2
reactant | methanesulfonyl chloride | 0.10 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 0.16 mL | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 5.0 mL | O1CCCC1 | C4H8O
product | ((4R)-2-{5-(2-methoxyethoxy)-7-[methyl(pyridin-2-ylsulfonyl)amino]-1H-indol-2-yl}-4,5-dihydro-1,3-thiazol-4-yl)methyl methanesulfonate | 0.25 g, yield 77% | CS(=O)(=O)OC[C@H]1N=C(SC1)C=1NC2=C(C=C(C=C2C1)OCCOC)N(S(=O)(=O)C1=NC=CC=C1)C | C22H26N4O7S3
